US07935830B2
Step B. 2,2a,7,7a-Tetrahydro-cyclobuta[a]inden-1-one oxime
Sodium acetate (1.45 g, 17.7 mmol) and hydroxylamine hydrochloride (0.68 g, 9.75 mmol) were added to a solution of 2,2a,7,7a-tetrahydro-cyclobuta[a]inden-1-one (1.4 g, 8.86 mmol) in MeOH (18 mL), and stirred overnight at room temperature. The reaction solution was concentrated via rotary evaporation. The residue was dissolved in CH2Cl2 (100 mL), washed with H2O (50 mL), dried over MgSO4, and concentrated to give the subtitle compound, which was used without further purification. MS calculated for C11H1NO+H: 174, observed: 174.

reactant | Sodium acetate | 17.7 mmol, 1.45 g | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 9.75 mmol, 0.68 g | Cl.NO
reactant | 2,2a,7,7a-tetrahydro-cyclobuta[a]inden-1-one | 8.86 mmol, 1.4 g | C1(CC2C1CC=1C=CC=CC21)=O | C11H10O
solvent | MeOH | 18 mL | CO | CH4O
product | 2,2a,7,7a-Tetrahydro-cyclobuta[a]inden-1-one oxime | C1(CC2C1CC=1C=CC=CC21)=NO | C11H11NO
